US04207341
(1-Phenethylbiguanide) 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetate.
3.08 g sodium 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetate (prepared from 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetic acid and the equivalent amount of sodium methylate in methanol) and 2.0 g 1-phenethylbiguanide hydrochloride are heated under reflux in 100 ml absolute ethanol for 1 hour. Thereafter, the reaction mixture is evaporated to one half of its original volume, the precipitated sodium chloride is filtered off with suction and the filtrate is mixed with diethyl ether. The desired salt crystallizes out slowly and, for purification, is dissolved in ethanol and again precipitated out by the addition of diethyl ether. The salt thus obtained has a melting point of 121°-123° C.

reactant | sodium 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetate | 3.08 g | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)[O-])C1)OC.[Na+]
reactant | 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C1)OC | C18H18ClNO4
reactant | sodium methylate | C[O-].[Na+]
reactant | 1-phenethylbiguanide hydrochloride | 2.0 g | Cl.C(CC1=CC=CC=C1)NC(=N)NC(=N)N
solvent | methanol | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1-Phenethylbiguanide) 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenylacetate | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C1)OC.C(CC1=CC=CC=C1)NC(=N)NC(=N)N | InChI=1S/C18H18ClNO4.C10H15N5/c1-24-16-7-6-14(19)11-15(16)18(23)20-9-8-12-2-4-13(5-3-12)10-17(21)22;11-9(12)15-10(13)14-7-6-8-4-2-1-3-5-8/h2-7,11H,8-10H2,1H3,(H,20,23)(H,21,22);1-5H,6-7H2,(H6,11,12,13,14,15)
